US06683201B2
In analogy to example 15.1, reaction of 4-methylaminophenol hemisulfate with 4-chlorophenylchloroformate yielded (4-Hydroxy-phenyl)-methyl-carbamic acid 4-chloro-phenyl ester, mp: 143-145° C., dec.; MS: 278 (MH+, 1Cl).

reactant | 4-methylaminophenol hemisulfate | S(=O)(=O)(O)OC1=CC=C(C=C1)NC | C7H9NO4S
reactant | 4-chlorophenylchloroformate | C1=CC(=CC=C1OC(=O)Cl)Cl | C7H4Cl2O2
product | (4-Hydroxy-phenyl)-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)C1=CC=C(C=C1)O)=O | C14H12ClNO3
